US05290477
A mixture of 1.41 g of 5-[3-(R)-fluoroheptyloxy]-2-(4-benzyloxyphenyl)pyrimidine, 0.22 g of 10palladium-on-carbon, 14 ml of methanol, and 14 ml of tetrahydrofuran (THF) was kept at 30° C., and hydrogen gas was blown thereinto over 6 hours with stirring. The catalyst was removed by filtration, and the solvent was removed by distillation to obtain 1.11 g of 5-[3-(R)-fluoroheptyloxy]-2-(4-hydroxyphenyl)pyrimidine.

reactant | 5-[3-(R)-fluoroheptyloxy]-2-(4-benzyloxyphenyl)pyrimidine | 1.41 g | F[C@@H](CCOC=1C=NC(=NC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)CCCC | C24H27FN2O2
reactant | methanol | 14 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 5-[3-(R)-fluoroheptyloxy]-2-(4-hydroxyphenyl)pyrimidine | 1.11 g | F[C@@H](CCOC=1C=NC(=NC1)C1=CC=C(C=C1)O)CCCC | C17H21FN2O2
